* C:\Users\Teacakes\Documents\sem\electronics\High Voltage\oscillator_simplified.asc
R1 N002 P001 35k
R2 P001 N004 10k
R3 N002 N007 100k
R4 N007 0 10k
D1 N004 N008 BZX84C6V2L
D2 0 N008 BZX84C6V2L
C1 N004 0 3.6n
R5 N002 N006 51k
R6 N006 0 10k
V1 V+ 0 15
V2 0 V- 15
R7 N003 0 10k
R8 P002 N005 10k
R10 N001 P003 100
C2 P003 DRIVE_OUT 4.7n
C3 N001 0 100µ
R11 V+ N001 200
Q1 DRIVE_OUT P002 0 0 2SCR375P
L1 N001 DRIVE_OUT 0.5m
XU1 N007 N004 V+ V- N002 AD712
XU2 N006 N003 V+ V- N005 AD712
V3 REF 0 SINE(0 30 95k)
.model D D
.lib C:\Users\Teacakes\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Teacakes\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 91m 90m
.inc opamp.sub
* Oscillator\n(Triangle wave)\nTarget f=15.75 kHz
* Buffer
* Driver stage
.lib ADI1.lib
.backanno
.end
